Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Benadryl Allergy / ceftriaxone, PCN, vancomycin
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with history of Fahr disease 
(idiopathic basal ganglia calcification) with baseline 
left-sided weakness, prior history of grand mal seizures who 
presents after two syncopal events.  
 The patient reports that about ___ years ago she had a car 
accident and sustained a head injury. Within a few months, she 
slipped and hit her head. In the setting of these head injuries, 
she developed a seizure disorder for which she briefly took 
antiepileptics. She has had no further seizures.  
 On ___, the patient was in her garden when she suddenly felt 
as if she were going to pass out. She notes a tingling sensation 
in her mouth that preceded her loss of consciousness. She denies 
any flushing or nausea, no palpitations or chest pain. She is 
uncertain how long she was unconscious, but awoke in the garden 
feeling refreshed. No bowel/bladder incontinence, no tongue 
biting, no confusion when she regained consciousness.  
 She notes that the week prior to this admission, she hit her 
head on a ceiling fan requiring stitches to her right brow. She 
then reports that on the night of ___, she had dull, throbbing 
headache. She fell asleep, and upon awakening the morning of 
___, she was sitting on the toilet (she had not yet urinated or 
defecated) and then she lost consciousness. She was did not have 
any antecedent symptoms. She denies experiencing antecedent 
chest pain or palpitations. She is unsure how long she was 
unconscious, but knows that she awoke at 615 and then awoke on 
the floor at 645 am.  
 She then presented to ___. A ___ was without acute 
abnormality. Per report, EKG without ischemic changes and trop-I 
negative x2. Labs notable for WBC 19.6. The ED physician 
discussed the patient with her PCP, ___. The PCP felt 
that the patient could have further outpatient workup for 
syncope with monitoring arranged Holter monitoring through his 
office. The patient's family requested further inpatient 
evaluation syncope; ED physician recommended LP but the patient 
declined. She subsequently left AMA.  
 On ___, the patient was sitting on the edge of her bed when she 
again lost consciousness. Again, she had no prodrome. No 
dizziness, flushing, nausea, chest pain, or palpitations. She 
awoke on her bed. She then presented to the ED.  
 In the ED, initial vitals were: 97.0 79 ___ 96% RA  
 Exam notable for: RRR, CTAB, abd s/tn/nd; Neuro: + dysmetria 
bilaterally on finger to nose, ___ weakness in LUE as at 
baseline and ___ in LLE worse than baseline  
 Labs notable for: WBC 12.7 (___), ALT 222, AST 92; electrolytes 
within normal limits.  
 Imaging/studies notable for:  
 - ECG (___): NSR at 76 bpm, normal intervals, no ischemic 
changes  
 - NCHCT (___):  
 No acute intracranial abnormality. Bilateral symmetric 
calcifications within the dentate nuclei, basal ganglia, 
thalami, and subcortical frontal lobe white matter. These 
findings are suggestive of Fahr disease or other metabolic 
disorder such as hyperparathyroidism, hypoparathyroidism or 
pseudohypoparathyroidism.  
 - CXR (___): No acute cardiopulmonary abnormality.  
 - Left hip plain film (___): No acute fracture or 
dislocation.  
 Neuro was consulted and recommended: Episodes seem consistent 
with orthostatic hypotension v. vasovagal syncope, unlikely 
seizure. Exam same as previously document in early ___ at 
neurology clinic visit. Given multiple falls at home, would 
benefit from admission for syncope work-up, including routine 
EEG. Neurology to follow.  
 Patient was given:  
 IV Ondansetron 4 mg  
 IV Ondansetron 4 mg  
 Decision was made to admit for further syncope evaluation.  
 Vitals prior to transfer: 75 ___ 14 96% RA  
 On the floor, the patient reports that she has a mild headache 
and mild nausea; she otherwise denies any complaints. In 
addition to the above history, patient notes that she was 
diagnosed with Fahr disease by imaging that was obtained in the 
setting of her trauma many years ago. She notes that she has 
left-sided weakness from this, which is chronic, but seems to 
have worsened over the past weeks to months. She denies any 
recent stressors.  
 ROS: 10-point ROS otherwise negative.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 - Fahr disease (idiopathic basal ganglia calcification) with 
associated left-sided weakness  
 - Seizure disorder after head trauma but none in the last ___ 
years; no longer on any medications for this  

 PAST SURGICAL HISTORY:  
 Cholecystectomy  
 Hysterectomy  
 c Section ×2  

 
Social History:
___
Family History:
No family history of seizure or neurological disorders.  
Parents alive.  Brother and mother with hx of 'carotid' surgery. 
 Daughter, ___, no health issues.  

 
Physical Exam:
ADMIT PHYSICAL
==============
Vital Signs: 98.6 122 / 68 72 18 97 RA  
 General: AOx3, in no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops, no carotid bruits  
 Lungs: Bibasilar crackles, no wheezes  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII tested and intact, strength ___ in left upper 
and lower extremity, ___ in right upper and lower extremity, 
gait deferred.  
 Access: PIV  

DISCHARGE PHYSICAL
==================
Vitals: 98.6, 111/72, 68, 18, 97 RA 
General: No acute distress  
HEENT:  EOMI, sclera anicteric, MMM, 
CV:  regular rate and rhythm, no murmurs, rubs, or gallops
Lungs:  inspiratory bibasilar crackles, no increased work of 
breathing
Abdomen:  soft, non-tender, non-distended, + bowel sounds
Ext:  warm & well perfused, with no cyanosis, clubbing, or edema
Neuro:  CN2-12 intact. Strength - RUE ___, LUE ___. 1+ 
reflexes throughout. No dysmetria, but markedly slow and 
deliberate on finger-nose-finger test. Some swaying on Romberg. 
Antalgic gait.
 
Pertinent Results:
ADMIT LABS
==========
___ 01:05PM BLOOD WBC-12.7* RBC-4.54 Hgb-13.9 Hct-42.1 
MCV-93 MCH-30.6 MCHC-33.0 RDW-13.5 RDWSD-46.2 Plt ___
___ 01:05PM BLOOD Neuts-76.1* Lymphs-12.8* Monos-7.3 
Eos-3.3 Baso-0.2 Im ___ AbsNeut-9.65* AbsLymp-1.62 
AbsMono-0.93* AbsEos-0.42 AbsBaso-0.02
___ 01:05PM BLOOD Plt ___
___ 01:05PM BLOOD Glucose-108* UreaN-10 Creat-0.7 Na-137 
K-4.8 Cl-103 HCO3-22 AnGap-17
___ 01:05PM BLOOD ALT-222* AST-92* AlkPhos-100 TotBili-0.4
___ 01:05PM BLOOD Albumin-4.3 Calcium-9.4 Phos-3.5 Mg-2.4

PERTINENT LABS
==============
___ 05:50AM BLOOD ALT-140* AST-28 LD(LDH)-142 CK(CPK)-38 
AlkPhos-86 TotBili-0.3
___ 05:41AM BLOOD ALT-87* AST-16 AlkPhos-83 TotBili-0.2
___ 08:05AM BLOOD ALT-60* AST-15 AlkPhos-77 TotBili-0.4
___ 05:50AM BLOOD cTropnT-<0.01
___ 05:50AM BLOOD VitB12-299 Folate-6.0
___ 05:50AM BLOOD %HbA1c-5.5 eAG-111
___ 05:50AM BLOOD Triglyc-233* HDL-46 CHOL/HD-4.9 
LDLcalc-134*
___ 05:41AM BLOOD Cortsol-11.5
___ 05:41AM BLOOD HBsAg-Negative HBsAb-Positive 
HBcAb-Negative IgM HBc-Negative
___ 05:41AM BLOOD HIV Ab-Negative
___ 05:50AM BLOOD Acetmnp-NEG
___ 01:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:41AM BLOOD HCV Ab-Negative

MICRO
=====
__________________________________________________________
___ 5:41 am Blood (LYME)

   Lyme IgG (Pending): 

   Lyme IgM (Pending): 
__________________________________________________________
___ 5:41 am Immunology (CMV)

   CMV Viral Load (Pending): 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 10:07 pm
      URINE     Site: NOT SPECIFIED      CHEM S# ___ UCU 
ADDED 09.08. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING/STUDIES
===============
CT HEAD WO CONTRAST ___
IMPRESSION:  
1.  No acute intracranial abnormality. 
2.  Bilateral symmetric calcifications within the dentate 
nuclei, basal 
ganglia, thalami, and subcortical frontal lobe white matter.  
These findings are suggestive of Fahr disease or other metabolic 
disorder such as hyperparathyroidism, hypoparathyroidism or 
pseudohypoparathyroidism. 

CXR ___
FINDINGS:  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities.  
 
IMPRESSION:    
No acute cardiopulmonary abnormality. 

HIP X-RAY ___
FINDINGS:  
NO acute fracture or dislocation is present.  Hips are preserved 
without 
significant degenerative changes.  No concerning lytic or 
sclerotic osseous abnormality is seen.  There are no radiopaque 
foreign bodies or soft tissue calcifications.  No diastases of 
the pubic symphysis or sacroiliac joints is present.  Mild 
degenerative changes are noted within the lower lumbar spine.  
No concerning soft tissue calcifications are noted.  
IMPRESSION:  
No acute fracture or dislocation. 

EEG ___
IMPRESSION: This is a normal EEG, awake and drowsy. Stage 2 
sleep is not 
recorded. No focal abnormalities or epileptiform discharges are 
present. If clinically indicated, repeat EEG with sleep 
recording may provide additional information. 

LIVER US ___
1.  Echogenic liver consistent with steatosis. Other forms of 
liver disease and more advanced liver disease including 
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot 
be excluded on this study. 
2.  The patient is status post cholecystectomy. 

DISCHARGE LABS
==============
___ 08:05AM BLOOD WBC-8.7 RBC-4.32 Hgb-13.2 Hct-39.8 MCV-92 
MCH-30.6 MCHC-33.2 RDW-13.2 RDWSD-45.1 Plt ___
___ 08:05AM BLOOD Plt ___
___ 08:05AM BLOOD Glucose-95 UreaN-13 Creat-0.9 Na-140 
K-3.8 Cl-101 HCO3-23 AnGap-20
___ 08:05AM BLOOD ALT-60* AST-15 AlkPhos-77 TotBili-0.4
___ 08:05AM BLOOD Calcium-9.1 Phos-5.5* Mg-2.1
 
Brief Hospital Course:
Patient is ___ with a hx of possible Fahr disease, L-sided 
weakness, and prior grand mal seizures related to head trauma, 
who presented after three syncopal events since ___, two in 
the past week, most likely related to orthostatic hypotension, 
possibly caused by primary neurologic disease vs. infection.

# Syncope - There was concern for neurologic cause, particularly 
considering her other ongoing neurologic issues (memory 
loss/confusion, falls), though patient was seen by neurology who 
did NOT feel that this was seizure.  Final EEG read ___: no 
seizure.  CT head with chronic bilateral basal ganglia 
calcifications, otherwise unremarkable.  NEG hip x-ray and NEG 
CXR.  AM cortisol 11.5.  Tox screen + for opiates.  Patient had 
normal ECG, negative troponin, and recent normal stress echo at 
OSH.  No arrhythmias while monitored on tele throughout 
admission.  As patient reported prodrome of 'clammy' feeling and 
nausea prior to syncopal episodes, all three of which occurred 
within 30min of waking, orthostasis was suspected.  Orthostatics 
initially NEG, but later on in afternoon ___ patient noted to 
have orthostatic hypotension (SBP 100->80).  Of note, both 
autonomic dysfunction and orthostasis are know complications of 
Fahr disease.  Patient had ongoing nausea and headaches, much 
improved with Compazine.  Patient encouraged to drink copious 
fluids, sit on edge of bed in morning before standing.  Patient 
will f/u with Dr. ___ in Neurology ___ as outpatient, she 
would like to discuss role of bisphosphonates. 

# Transaminitis - 222/92 (ALT/AST) on admission, down-trended to 
___ by time of discharge.  RUQ US showed steatosis.  Serum 
acetaminophen screen NEG.  Possibly in setting of viral 
infection (given headaches/nausea/orthostasis).  Much of 
infectious work-up pending at time of d/c including anaplasma, 
EBV, HSV, CMV, lyme.  HIV neg, HCV neg, HBV immune.    

# Leukocytosis - WBC 12.7 on admission, resolved promptly, 8.7 
at time of discharge. Infectious work-up in ED (CXR, UA) was 
negative, no localizing symptoms.  Urine culture showed mixed 
flora, skin/genital contaminant.

# Fahr Disease - Basal ganglia calcifications seen on CT suggest 
Fahr disease.  Patient reported falls and memory loss for the 
past ___ year, all in setting of L sided weakness (deemed to be 
give-way weakness by neurology).  Fahr disease rare, and her 
parents are unaffected despite autosomal dominant pattern of 
infection.  Patient will follow-up with outpatient Neurologist, 
Dr. ___.  ___ saw patient, recommended outpatient ___ and AFO 
custom L foot brace to prevent L foot drop.

# Hyperlipidemia - Prescribed pravastatin in the past. On 
admission, elevated cholesterol (227), triglycerides (233), and 
LDL (134).  Patient should be on statin, held off in setting of 
transaminitis.  Patient will follow-up with PCP.

# Tobacco use disorder - 40 pack-year history. Quit 3 months 
ago, cravings during admission, got nicotine lozenge.

TRANSITIONAL ISSUES:
====================
- Patient has several pending infectious labs at time of 
discharge ( anaplasma, EBV, HSV, CMV, lyme)
- Resolving transaminitis at time of discharge (ALT/AST 60/15)
- Patient with hyperlipidemia, should discuss benefit of statin 
with PCP

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Prochlorperazine 10 mg PO Q6H:PRN Nausea 
RX *prochlorperazine maleate [Compazine] 10 mg 1 tablet(s) by 
mouth every six (6) hours Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Syncope
Orthostatic hypotension
Fahr Disease
Transaminitis
Leukocytosis

Secondary Diagnosis
===================
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you had several 
episodes where you passed out (syncope).  A CT scan of your head 
was normal other than chronic changes from Fahr Disease.  An 
X-ray of your hip did not show any fracture.  We monitored your 
heart rate and rhythm in order and determined that your heart 
was NOT beating in an abnormal rhythm.  The neurologists came to 
examine you.  They did not feel that you have been having 
seizures and an EEG of your brain confirmed this.  Your blood 
pressure was monitored, and you were found to have one episode 
of significantly decreased blood pressure upon standing.  This 
is called orthostatic hypotension and could very well have been 
the cause of your syncope.  It is imperative that you drink 
plenty of water and also make sure that you do not make sudden 
movements from lying down/sitting to standing.  For example, you 
should sit on the edge of your bed for ___ minutes in the 
morning when you wake up before getting up for the day.  We also 
checked your blood for infection.  Several tests are still 
pending, but nothing came back positive while you were in the 
hospital.  We will contact you should any of these tests come 
back positive.

As your symptoms may be caused by Fahr Disease, which has been 
linked to orthostatic hypotension (low blood pressures when 
moving from sitting to standing), you need to follow-up closely 
with your Neurologist, Dr. ___.  You can discuss the role of 
being treated with a Bisphosphonate.  You should call Dr. 
___ office to set up an appointment over the next ___ days 
(___).  

The physical therapists came to see you given that you have been 
having falls at home.  They suggested that you wear a brace on 
your left foot.  You should also have ongoing physical therapy 
once you leave the hospital.  We have written prescriptions for 
both the brace and physical therapy. 

You initially had elevated liver tests, the cause of which is 
unclear.  An ultrasound of your liver showed chronic fatty 
infiltration of your liver.  The liver tests decreased to near 
normal at time of discharge from the hospital.  You should 
follow-up with your primary care doctor about this issue.

It has been a pleasure taking care of you!

Sincerely,

Your ___ Care Team     
 
Followup Instructions:
___